US08633173B2
A round bottom flask was charged with (2-nitro-phenyl)-acetic acid methyl ester (4.22 g, 21.6 mmol) (prepared as described in Organic Letters, 2009, 11, 1345-1348), iodomethane (2.8 mL, 45 mmol) and dry dimethyl sulfoxide (20 mL). Cesium carbonate (18 g, 56 mmol) was added and the mixture was stirred at room temperature under an atmosphere of nitrogen for 18 hours. Water (50 mL) was added and the mixture was extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with water (2×30 mL), saturated aqueous sodium chloride (30 mL), dried over magnesium sulfate, filtered and evaporated. 2-(2-Nitro-phenyl)-propionic acid methyl ester was isolated as a red oil (3.24 g, 71%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.93 (d, J=8.1 Hz, 1H), 7.60 (t, J=7.6 Hz, 1H), 7.49 (d, J=7.8 Hz, 1H), 7.43 (t, J=7.7 Hz, 1H), 4.32 (q, J=7.0 Hz, 1H), 3.67 (s, 3H), 1.61 (d, J=7.0 Hz, 3H). MS=232 (MH)+.

reactant | (2-nitro-phenyl)-acetic acid methyl ester | 21.6 mmol, 4.22 g | COC(CC1=C(C=CC=C1)[N+](=O)[O-])=O | C9H9NO4
reactant | iodomethane | 45 mmol, 2.8 mL | IC | CH3I
reactant | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
reactant | Cesium carbonate | 56 mmol, 18 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | Water | 50 mL | O | H2O
product | 2-(2-Nitro-phenyl)-propionic acid methyl ester | COC(C(C)C1=C(C=CC=C1)[N+](=O)[O-])=O | C10H11NO4
